US04705784
Pivaloyloxymethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate-1-oxide
The product (0.2 g) obtained in Example 3, i.e. a mixture of pivaloyloxymethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate and 2-cephem isomer thereof, was dissolved in chloroform (1 ml). To this solution was added dropwise a solution of m-chloroperbenzoic acid (0.059 g) in chloroform (1 ml). The mixture was stirred for 1.5 hours at room temperature. Precipitated crystals were filtered, washed with chloroform (2 ml), and dried under reduced pressure to give the title compound (0.092 g).

reactant | pivaloyloxymethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OCOC(C(C)(C)C)=O)C1=O)\C=1N=CSC1 | C21H25N5O9S2
reactant | 2-cephem | S1C=CCN2[C@H]1CC2=O | C6H7NOS
reactant | m-chloroperbenzoic acid | 0.059 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | Pivaloyloxymethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate-1-oxide | 0.092 g | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(N)=O)C(=O)OCOC(C(C)(C)C)=O)C1=O)\C=1N=CSC1 | C21H25N5O10S2
